US07375093B2
To a stirred solution of (1-amino-cyclohexyl)-(3,5-dichloro-phenyl)-methanol and pyridine (100 μL, 1.24 mmol) in CH2Cl2 (4 mL) was added p-toluenesulfonyl chloride. The mixture was heated at ca. 35° C. for 8 hours. The mixture was applied to a 10 mL Chem Elut cartridge pre-wetted with 5% aqueous HCl (5 mL) and eluted with CH2Cl2 (25 mL). The eluate was applied to a second Chem Elut cartridge pre-wetted with saturated aqueous NaHCO3. The eluate from the second cartridge was evaporated to leave N-{1-[(3,5-dichloro-phenyl)-hydroxy-methyl]-cyclohexyl}-4-methyl-benzenesulfonamide (139 mg) as an oil. 1H NMR (500 MHz, CDCl3) δ(ppm): 7.7 (d, 2H), 7.2 (s, 2H), 7.15 (d, 2H), 7.1 (s, 1H), 4.82 (s, 1H), 4.16 (s, 1H), 2.33 (s, 3H), 0.9-1.9 (m, 10H).

reactant | (1-amino-cyclohexyl)-(3,5-dichloro-phenyl)-methanol | NC1(CCCCC1)C(O)C1=CC(=CC(=C1)Cl)Cl | C13H17Cl2NO
reactant | pyridine | 1.24 mmol, 100 μL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 5 mL | Cl | ClH
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-{1-[(3,5-dichloro-phenyl)-hydroxy-methyl]-cyclohexyl}-4-methyl-benzenesulfonamide | 139 mg | ClC=1C=C(C=C(C1)Cl)C(C1(CCCCC1)NS(=O)(=O)C1=CC=C(C=C1)C)O | C20H23Cl2NO3S
